US07956191B2
3-[(2-chloro-4-iodophenyl)amino]isonicotinic acid (R=chloro):
synthesized as intermediate 1 by reacting 15.7 mmol of 2-chloro-4-iodoaniline with 23.55 mmol 2-fluoroisonicotinic acid. LC/MS [(5.9 min; 376 (M+1)].

reactant | 2-chloro-4-iodoaniline | 15.7 mmol | ClC1=C(N)C=CC(=C1)I | C6H5ClIN
reactant | 2-fluoroisonicotinic acid | 23.55 mmol | FC=1C=C(C(=O)O)C=CN1 | C6H4FNO2
product | 3-[(2-chloro-4-iodophenyl)amino]isonicotinic acid | ClC1=C(C=CC(=C1)I)NC1=C(C(=O)O)C=CN=C1 | C12H8ClIN2O2
